US06627755B1
To a well stirred mixture of sodium periodate (2.24 g, 10.47 mmol) in pH 7 buffer (10 mL) and tetrahydrofuran (10 mL) was added 3-(2-chloro-phenyl)-6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one (0.90 g, 2.62 mmol) all at once. The mixture warmed slightly to the touch and was stirred 1 h at ambient temperature. The reaction was filtered through celite and the pad was rinsed with ethyl acetate. The phases were separated from the filtrate and the aqueous layer was extracted with ethyl acetate. The combined organic phase was washed with brine, dried over magnesium sulfate, and concentrated to afford 0.802 g (97%) of 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde as a 1:2 mixture of free aldehyde and hydrate which had: 1H NMR δ 9.52 (s,) [CHO], 8.20-7.45 (m, 7H), 6.75 (d, J=7.4 Hz) [hydrate OH] and 6.49 (d, J=8 Hz) [hydrate OH], 5.14 (t, J=7.5 Hz) [hydrate methine CH].

reactant | sodium periodate | 10.47 mmol, 2.24 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 3-(2-chloro-phenyl)-6-fluoro-2-(2-dimethylamino-vinyl)-3,4-dihydro-quinazolin-4-one | 2.62 mmol, 0.90 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=CN(C)C | C18H15ClFN3O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.802 g, 97% | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H8ClFN2O2
